US07250417B2
To a solution of 6-bromo-1H-imidazo[4,5-b]pyridine (500 mg, 2.52 mmol) and 1-chloromethyl-4-methoxy-benzene (394.6 mg, 2.52 mmol) in DMF (10 mL) was added Cs2CO3 (902 mg, 2.77 mmol). The reaction mixture was stirred at room temperature for 2 hours, and then partitioned between EtOAc and water. The organic layer was dried over MgSO4, and concentrated. The residue was purified on a silica gel column eluting with EtOAc-Hexane to provide 6-bromo-1-(4-methoxy-benzyl)-1H-imidazo[4,5-b]pyridine (450 mg).

reactant | 6-bromo-1H-imidazo[4,5-b]pyridine | 2.52 mmol, 500 mg | BrC=1C=C2C(=NC1)N=CN2 | C6H4BrN3
reactant | 1-chloromethyl-4-methoxy-benzene | 2.52 mmol, 394.6 mg | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | Cs2CO3 | 2.77 mmol, 902 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-bromo-1-(4-methoxy-benzyl)-1H-imidazo[4,5-b]pyridine | 450 mg | BrC=1C=C2C(=NC1)N=CN2CC2=CC=C(C=C2)OC | C14H12BrN3O
